* D:\Technical\LTSpice\ASK_FSK_mix\ASK.asc
V1 VPULSE1 0 PULSE(-5 5 0 0.01m 0.01m 1m 2m)
V2 VSIN1 0 SINE(0 5 1k 0) AC 1
D1 0 VSIN1_clamped D
C1 VSIN1_clamped VSIN1 100000µ
Q3 VSIN1 N005 N003 0 2N2222
R7 N005 VPULSE1 50
R5 N003 0 1k
D2 N003 N004 MUR460
R6 0 N004 10k
C2 N004 0 1µ
V4 P001 0 -12
V5 P002 0 12
V6 N001 0 1
R4 N002 0 1k
XU2 N004 N001 P002 P001 N002 UA741
R11 0 N006 1k
R12 N013 VPULSE1 50
Q5 VSIN2 N013 N006 0 2N2907
R1 N006 0 1k
V7 VSIN2 0 SINE(0 5 10k 0) AC 1
D3 0 VSIN2_clamped D
C3 VSIN2_clamped VSIN2 100000µ
C4 N008 N006 1n
R2 N008 0 10k
V8 -vee 0 -12
V9 +vcc 0 12
V10 N009 0 1
R3 N012 0 1k
XU1 N011 N009 +vcc -vee N010 UA741
D4 N007 N011 MUR460
R8 0 N011 500
C5 N011 0 1µ
XU3 N008 N007 +vcc -vee N007 UA741
XU4 0 N010 +vcc -vee N012 UA741
XU5 N003 N006 +vcc -vee N006 UA741
.model D D
.lib C:\Users\yuann\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\yuann\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 6m 0m
.include C:\Users\yuann\Downloads\sloj138\UA741.301
* ASK part of the circuit
* FSK part of the circuit
.backanno
.end
